US06080743
a) 4-Amino-1-(2,3-dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-pyridinium bromide
A solution of 197 mg (0.6 mmol) of 5-bromomethyl-2,3-dimethoxy-7-nitro-quinoxaline in 2 ml of dichloromethane is added at room temperature to a suspension of 282 mg (3 mmol) of 4-aminopyridine in 1 ml of dichloromethane and 3 ml of acetonitrile and the mixture is then stirred for 3.5 hours at room temperature. The resulting precipitate is filtered off and then washed on the filter with a small amount of acetonitrile. The title compound is obtained in the form of a colorless powder.

reactant | 5-bromomethyl-2,3-dimethoxy-7-nitro-quinoxaline | 0.6 mmol, 197 mg | BrCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H10BrN3O4
reactant | 4-aminopyridine | 3 mmol, 282 mg | NC1=CC=NC=C1 | C5H6N2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 4-Amino-1-(2,3-dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-pyridinium bromide | [Br-].NC1=CC=[N+](C=C1)CC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | InChI=1S/C16H15N5O4.BrH/c1-24-15-16(25-2)19-14-10(9-20-5-3-11(17)4-6-20)7-12(21(22)23)8-13(14)18-15;/h3-8,17H,9H2,1-2H3;1H
